US09193721B2
Step A: Methyl 5-chloro-6-cyano-2-(3,5-difluorophenyl)nicotinate
A solution of methyl 2,5-dichloro-6-cyanonicotinate (2.0 g, 8.6 mmol), (3,5-difluorophenyl)boronic acid (1.5 g, 9.5 mmol) and potassium carbonate (2.6 g, 19 mmol) in water (16 mL) and 1,4-dioxane (41 mL) were bubbled with nitrogen gas (10 minutes). Bis(triphenylphosphine)palladium(II) chloride (0.67 g, 0.95 mmol) was added and the mixture was bubbled with nitrogen gas (10 minutes). The mixture was heated at 80° C. for 1 hour and diluted with ethyl acetate and water. The aqueous layer was separated and extracted again with ethyl acetate. The combined extracts were washed with water, washed with brine, dried over sodium sulfate, filtered and evaporated. Purification on silica gel using ethyl acetate in hexanes (0-50%) gave the desired compound (2.5 g, 94%). LCMS calculated for C14H8ClF2N2O2 (M+H)+: m/z=309.0. found: 308.9.

reactant | methyl 2,5-dichloro-6-cyanonicotinate | 8.6 mmol, 2.0 g | ClC1=C(C(=O)OC)C=C(C(=N1)C#N)Cl | C8H4Cl2N2O2
reactant | (3,5-difluorophenyl)boronic acid | 9.5 mmol, 1.5 g | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | potassium carbonate | 19 mmol, 2.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 16 mL | O | H2O
solvent | 1,4-dioxane | 41 mL | O1CCOCC1 | C4H8O2
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 0.95 mmol, 0.67 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 5-chloro-6-cyano-2-(3,5-difluorophenyl)nicotinate | 2.5 g, 94% | ClC=1C(=NC(=C(C(=O)OC)C1)C1=CC(=CC(=C1)F)F)C#N | C14H7ClF2N2O2
